US04855085
A mixture of 1.23 g (5 mmol) of (S)-2-[3-hydroxy-3-methyl-4-pentynyl]-3,5,6-trimethyl-2,5-cyclohexadiene-1,4-dione ([α]D25 +11.3° CH2Cl2), 1.05 mL of triethylamine, 120 mg of 4-N,N-dimethylamino pyridine, and 0.6 mL of acetic anhydride in 8 mL of CH2CL2 was stirred at 25° C. under argon for 17 h. It was diluted with CH2CL2 (70 mL), washed with 1.0N HCl, saturated NaHCO3 solution, water and dried over MgSO4. The crude material (1.6 g) was purified by flash chromatography on silica gol (50 g; 230-400 mesh). Elution with ether:petroleum ether (3:17) gave 1.47 g of (S)-2-[3-(acetyloxy)-3-methyl-4-pentynyl]-3,5,6-trimethyl-2,5-cyclohexadiene-1,4-dione as a yellow oil, [α]D25 -21.42° (c, 0.994, CH2Cl2).

reactant | (S)-2-[3-hydroxy-3-methyl-4-pentynyl]-3,5,6-trimethyl-2,5-cyclohexadiene-1,4-dione | 5 mmol, 1.23 g | O[C@@](CCC=1C(C(=C(C(C1C)=O)C)C)=O)(C#C)C | C15H18O3
reactant | acetic anhydride | 0.6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 1.05 mL | C(C)N(CC)CC | C6H15N
product | (S)-2-[3-(acetyloxy)-3-methyl-4-pentynyl]-3,5,6-trimethyl-2,5-cyclohexadiene-1,4-dione | 1.47 g | C(C)(=O)O[C@@](CCC=1C(C(=C(C(C1C)=O)C)C)=O)(C#C)C | C17H20O4
